US08470820B2
Step 2: 5-Bromo-2-methoxymethyl-pyrimidine-4-carboxylic acid
To a solution of 2-methoxy-acetamidine (7.21 g, 89.19 mmol) in EtOH (50 ml) was added sodium ethylate (26 ml, 22% solution in EtOH) and the reaction mixture was heated to 50° C. for 30 min. A solution of mucobromic acid (6.5 g, 38.77 mmol) in EtOH (50 ml) was added followed by sodium ethylate (14 ml, 22% solution in EtOH), and the reaction mixture was continued to stir at 50° C. for 1 h. After filtration and solvent evaporation, water (5 ml) was added, the reaction mixture was cooled to 0° C. and acidified with 2N HCl solution to pH ˜6. After evaporation of water, the residue was dissolved in MeOH, filtered, and the filtrate was evaporated. The crude material was purified by silica gel chromatography using a methanol/methylenechloride eluent as solvent to yield 3.73 g (60%) of the title compound.

reactant | 2-methoxy-acetamidine | 89.19 mmol, 7.21 g | COCC(=N)N | C3H8N2O
reactant | sodium ethylate | 26 ml | CC[O-].[Na+]
reactant | mucobromic acid | 38.77 mmol, 6.5 g | C(/C(/Br)=C(/Br)\C=O)(=O)O | C4H2Br2O3
reactant | sodium ethylate | 14 ml | CC[O-].[Na+]
solvent | EtOH | 50 ml | CCO | C2H6O
solvent | EtOH | 50 ml | CCO | C2H6O
product | 5-Bromo-2-methoxymethyl-pyrimidine-4-carboxylic acid | 3.73 g, 60% | BrC=1C(=NC(=NC1)COC)C(=O)O | C7H7BrN2O3
